US04096250
S-Trityl-1-thio-β-D-glucopyranose (3.6 g.) was dissolved in 50 ml. dry pyridine, cooled to 0° while 5 ml. (7.5 g.) of methylsulfonyl chloride was added. The solution was placed in the refrigerator for 22 hours until thin layer chromatography showed only traces of starting material or partially reacted products remaining. The solvent was removed at reduced pressure. The oily residue was dissolved in chloroform (200 ml.) and was washed with dilute hydrochloric acid and brine. Evaporating the dried organic extract yielded a product which was chromatographed over a silica dry-column using 20% ethyl acetate-80% chloroform eluant. Pure S-trityl-2,3,4,6-tetra-O-methylsulfonyl-1-thio-β-D-glucopyranose was obtained from ether.

reactant | S-Trityl-1-thio-β-D-glucopyranose | 3.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C25H26O5S
reactant | methylsulfonyl chloride | 7.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | S-trityl-2,3,4,6-tetra-O-methylsulfonyl-1-thio-β-D-glucopyranose | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)S[C@H]1[C@H](OS(=O)(=O)C)[C@@H](OS(=O)(=O)C)[C@H](OS(=O)(=O)C)[C@H](O1)COS(=O)(=O)C | C29H34O13S5
